US03969373
A solution of 16.7 g of 4-formylcinnamic acid dimethyl acetal in 200 ml of dioxane was hydrogenated in the presence of 1 g of 5% palladium-on-carbon at room temperature and atmospheric pressure. After about 61/2 hrs., the theoretical volume of hydrogen was consumed and the uptake ceased. The reaction mixture was filtered through Celite and the filter cake was washed with 300 ml of dioxane. The filtrate was concentrated to a final volume of 200 ml, 200 ml of 1N hydrochloric acid was added, the solution was stirred at room temperature for 4 hrs. and then evaporated to dryness. The residue was dissolved in 700 ml of methylene chloride, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated to a final volume of 100 ml and the solution was allowed to stand at 0° for 16 hrs. The precipitate was collected, washed with 1:1 methylene chloride-petroleum ether and dried at 55° for 4 hrs. under vacuum to give 10.9 g (81%) of 4-formyldihydrocinnamic acid as colorless crystals, m.p. 134°-138°.

reactant | 4-formylcinnamic acid dimethyl acetal | 16.7 g | COC(C=CC1=CC=C(C=C1)C=O)(O)OC | C12H14O4
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-on-carbon | 1 g | [Pd] | Pd
product | 4-formyldihydrocinnamic acid | 10.9 g, 81% | C(=O)C1=CC=C(CCC(=O)O)C=C1 | C10H10O3
